US06703387B2
(7-fluoro-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester was prepared in an analogous fashion to (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester, prepared in Example 1, by replacing 2-fluorobenzoic acid with 2,5-difluorobenzoic acid.

reactant | (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=CC=C2 | C15H23N2O3P
reactant | 2,5-difluorobenzoic acid | FC1=C(C(=O)O)C=C(C=C1)F | C7H4F2O2
product | (7-fluoro-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=CC(=C2)F | C15H22FN2O3P
